US04752326
Preparation of 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3-trifluoromethyl-4-chloro-5-methylpyrazole (Compound No. 81) (Process D)
Into a solution of 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3-trifluoromethyl-5-methylpyrazole (37.3 g) in chloroform (200 ml) was introduced chlorine gas (7.1 g) at 60° C. for 20 minutes. Removal of the solvent from the reaction solution by distillation in vacuo gave the titled compound (40.2 g) as a pale yellow oil which soon crystallized on standing at room temperature. Recrystallization from a mixture of n-hexane/benzene yielded a white crystalline solid. m.p. 72°-74.5° C.

reactant | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3-trifluoromethyl-5-methylpyrazole | 37.3 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C=C1C)C(F)(F)F | C12H9ClF4N2O3S
reactant | chlorine | 7.1 g | ClCl | Cl2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluoro-4-chloro-5-methylsulfonyloxyphenyl)-3-trifluoromethyl-4-chloro-5-methylpyrazole | 40.2 g | FC1=C(C=C(C(=C1)Cl)OS(=O)(=O)C)N1N=C(C(=C1C)Cl)C(F)(F)F | C12H8Cl2F4N2O3S
